US03932503
4.2 g of N-[4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonyl]-methyl-urethane (melting point 189°- 191°C) are suspended in 50 ml of dioxane and dissolved in 50 ml dioxane after addition of 2 g of 3-methoxy-4-methyl-cyclohexyl-amine-acetate (melting point 134° - 136° C) (obtained by hydrogenation of the nucleus of 3-methoxy-4-methylaniline at Co2O3 at 260°C and under a pressure of 250 atmospheres H2) and heated for about 1 hour to 110°C, in which process the methanol which has formed during the reaction is distilled off. After cooling, water is added and the N-[4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonyl]-N'-(3-methoxy-4-methylcyclohexyl)-urea precipitates in crystalline form and it is recrystallized from methanol (melting point 179° - 181° C). In analogous manner, there is obtained: from N-[4-(β-<3-trifluoromethylbenzamido>-ethyl)-benzenesulfonyl]-methylurethane (melting point 178° - 180°C)

reactant | methyl-urethane | CNC(=O)OCC | C4H9NO2
reactant | 3-methoxy-4-methyl-cyclohexyl-amine acetate | 2 g | COC1CC(CCC1C)N.C(C)(=O)[O-]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-methoxy-4-methylaniline | COC=1C=C(N)C=CC1C | C8H11NO
